US04128576
A 1 liter flask was charged with 32.2 grams (115 mmol) of 3-(2',5'-dimethylphenacyl)phthalide, 200 ml of benzene and 50 ml of thionyl chloride. After heating at reflux on a steambath for 30 minutes, the solution was concentrated. The residue was triturated with ligroin to give 32.5 grams of o-(2',5'-dimethylbenzoylvinyl)benzoyl chloride, m.p. 96°-98° C. Analysis shows 72.29% carbon, 5.07% hydrogen and 11.80% chlorine as against calculated values of 72.36%, 5.06% and 11.87% for C18H15ClO2.

reactant | 3-(2',5'-dimethylphenacyl)phthalide | 115 mmol, 32.2 grams | CC1=C(C(CC2OC(=O)C3=CC=CC=C23)=O)C=C(C=C1)C | C18H16O3
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | o-(2',5'-dimethylbenzoylvinyl)benzoyl chloride | 32.5 grams | CC1=C(C(=O)C=CC2=C(C(=O)Cl)C=CC=C2)C=C(C=C1)C | C18H15ClO2
